US07465731B2
A mixture of (2E)-3-{6-[(1-benzyl-4-piperidyl)amino]-3-pyridyl)acrylic acid (430 mg), O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (157 mg), HOBt (181 mg) and EDCI (208 mg) in DMF (20 ml) was stirred at ambient temperature for 15 hours. The reaction mixture was poured into a mixture of AcOEt-H2O and the organic layer was washed with brine and dried over MgSO4. The solvent was evaporated in vacuo and the residue was chromatographed on silicagel eluting with AcOEt-MeOH (9:1-8:2). The eluted fractions containing the desired product were collected and evaporated in vacuo to give (2E)-3-(6-[(1-benzyl-4-piperidyl)amino]-3-pyridyl}-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (180 mg).

reactant | (2E)-3-{6-[(1-benzyl-4-piperidyl)amino]-3-pyridyl)acrylic acid | 430 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=C(C=N1)/C=C/C(=O)O | C20H23N3O2
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 157 mg | O1C(CCCC1)ON | C5H11NO2
reactant | HOBt | 181 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 208 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | AcOEt-H2O | C(=O)(C)OCC.O
product | (2E)-3-(6-[(1-benzyl-4-piperidyl)amino]-3-pyridyl}-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 180 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=C(C=N1)/C=C/C(=O)NOC1OCCCC1 | C25H32N4O3
